US07790727B2
2,2-Difluoro-benzo[1,3]dioxole-4-sulfonic acid ethyl-(4-methoxy-3-piperazin-1-yl-phenyl)-amide Hydrochloride
The compound was prepared by reaction of 4-{5-[(2,2-difluoro-benzo[1,3]dioxole-4-sulfonyl)-methyl-amino]-2-methoxy-phenyl}-piperazine-1-carboxylic acid tert-butyl ester with sodium hydride and ethylbromide, and subsequent deprotection of the tert.butoxycarbonyl group with hydrochlorid acid in isopropanol.

reactant | 4-{5-[(2,2-difluoro-benzo[1,3]dioxole-4-sulfonyl)-methyl-amino]-2-methoxy-phenyl}-piperazine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=C(C=CC(=C1)N(C)S(=O)(=O)C1=CC=CC=2OC(OC21)(F)F)OC | C24H29F2N3O7S
reactant | sodium hydride | [H-].[Na+]
reactant | ethylbromide | C(C)Br | C2H5Br
reactant | hydrochlorid | Cl | ClH
solvent | isopropanol | C(C)(C)O | C3H8O
product | 2,2-Difluoro-benzo[1,3]dioxole-4-sulfonic acid ethyl-(4-methoxy-3-piperazin-1-yl-phenyl)-amide Hydrochloride | Cl.C(C)N(S(=O)(=O)C1=CC=CC=2OC(OC21)(F)F)C2=CC(=C(C=C2)OC)N2CCNCC2 | InChI=1S/C20H23F2N3O5S.ClH/c1-3-25(14-7-8-16(28-2)15(13-14)24-11-9-23-10-12-24)31(26,27)18-6-4-5-17-19(18)30-20(21,22)29-17;/h4-8,13,23H,3,9-12H2,1-2H3;1H
